US07323472B2
4-Chloro-6-(2-fluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde
Prepared as described above in Example 2 starting from 4,6-dichloro-2-methylsulfanyl-pyrimidine-5-carbaldehyde and 2-fluoroaniline to give the title compound 4-chloro-6-(2-fluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde. 1H-NMR: δ 2.53 (s, 3H), 7.15 (m, 3H), 8.25 (m, 1H), 7.44 (m, 1H), 10.31 (s, 1H), 11.35 (br s, 1H). LC MS (m/e)=298 (MH+).

reactant | 4,6-dichloro-2-methylsulfanyl-pyrimidine-5-carbaldehyde | ClC1=NC(=NC(=C1C=O)Cl)SC | C6H4Cl2N2OS
reactant | 2-fluoroaniline | FC1=C(N)C=CC=C1 | C6H6FN
product | 4-chloro-6-(2-fluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | ClC1=NC(=NC(=C1C=O)NC1=C(C=CC=C1)F)SC | C12H9ClFN3OS
